US05158948
Step 3: 4-Methoxy-3-(methylthio)phenylacetic acid
To a suspension of 4-methoxy-3-thiophenylacetic acid (1.61 g, 81 mmol) in acetone was added potassium carbonate (56 g, 400 mmol, 5 equivalents), followed by methyl iodide (11.5 g, 81 mmol, 1 equivalent). After stirring at ambient temperature for 5.5 hours, 2N aqueous hydrochloric acid solution (400 mL) was slowly added. The resulting solution was then extracted with 2×200 mL of THF/diethyl ether (1:1) followed by diethyl ether (400 mL). The combined organic layers were washed with 2×250 mL of 10% aqueous sodium thiosulfate and 250 mL of saturated aqueous sodium chloride solution (brine), dried over anhydrous magnesium sulfate, filtered and concentrated to give 56 g (96% yield) of the title compound as a pale yellow solid; DCI MS M/Z: 230 (M+NH4)+ ; 1H NMR (CD3OD) δ 3.36 (s, 3H), 3.53 (s, 2H), 3.82 (s, 3H), 6.83 (d, 1H, J=8.7 Hz), 7.02 (dd, 1H, J=8.7, 2.7 Hz), 7.06 (d, 1H, J=2.7 Hz).

reactant | 4-methoxy-3-thiophenylacetic acid | 81 mmol, 1.61 g | COC=1C(=CSC1)CC(=O)O | C7H8O3S
reactant | potassium carbonate | 400 mmol, 56 g, 5 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 81 mmol, 11.5 g, 1 equivalent | CI | CH3I
reactant | hydrochloric acid | 2N, 400 mL | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
product | 4-Methoxy-3-(methylthio)phenylacetic acid | 56 g, 96% yield | COC1=C(C=C(C=C1)CC(=O)O)SC | C10H12O3S
